US08039463B2
10% Pd/C (50 mg) was added to a stirred solution of 5-nitro-3H-benzooxazol-2-one (450 mg, 2.5 mmol) in MeOH (5 mL) added under an atmosphere of hydrogen and the mixture was stirred for 3 hours. The mixture was then filtered over celite and the filtrate was evaporated to afford 380 mg (95%) of 5-amino-3H-benzooxazol-2-one. 1H NMR: (DMSO-d6): δ 6.88 (d, 1H), 6.3 (d, 1H), 6.22 (dd, 1H), 4.5 (s, 2H).

reactant | 5-nitro-3H-benzooxazol-2-one | 2.5 mmol, 450 mg | [N+](=O)([O-])C=1C=CC2=C(NC(O2)=O)C1 | C7H4N2O4
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 5-amino-3H-benzooxazol-2-one | 380 mg, 95% | NC=1C=CC2=C(NC(O2)=O)C1 | C7H6N2O2
